US07714008B2
(E)-4-Methoxybenzyl 3-(4-(4-methoxybenzyloxy)phenyl)acrylate (A.2).
Potassium carbonate (21 g, 152 mmol) was added to a mixture of 4-hydroxycinnamic acid A.1 (6.25 g, 38.1 mmol) and p-methoxy benzyl chloride (10.35 mL, 76 mmol) in DMF (100 mL). The mixture was stirred at 80° C. for five hours. After cooling, the mixture was poured into water (700 mL). The solid was collected by filtration, washed with water, and dried to give A.2 (15 g). MS ESI (pos.) m/e: 405 (M+H). 1H NMR (CDCl3) δ 7.68 (d, 1H), 7.47 (d, 2H), 7.38 (m, 4H), 6.95 (m, 6H), 6.35 (d, 1H), 5.20 (s, 2H), 5.03 (s, 2H), 3.84 (s, 3H), 3.83 (s, 3H).

reactant | Potassium carbonate | 152 mmol, 21 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-hydroxycinnamic acid | OC1=CC=C(C=CC(=O)O)C=C1 | C9H8O3
reactant | p-methoxy benzyl chloride | 76 mmol, 10.35 mL | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | water | 700 mL | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | (E)-4-Methoxybenzyl 3-(4-(4-methoxybenzyloxy)phenyl)acrylate | COC1=CC=C(COC2=CC=C(C=C2)/C=C/C(=O)OCC2=CC=C(C=C2)OC)C=C1 | C25H24O5
